US04965404
A one-liter three-necked flask equipped with stirrer, reflux condenser and nitrogen gas inlet and outlet was charged under nitrogen atmosphere with 250 ml of methanol, 250 ml of isopropanol and 157 g of potassium diphenylphosphinobenzene-m-monosulfonate dihydrate obtained in Reference Example 2, thereafter 48 g of lithium sulfate monohydrate. The mixture was refluxed for 6 hours with stirring. After completion of the reaction, inorganic salts were removed by filtration. To the obtained mother liquor was added 250 ml of toluene, thereafter methanol and isopropanol were distilled off to replace the solvent with toluene. Precipitated crystalline of lithium diphenylphosphinobenzene-m-monosulfonate was isolated by filtration. The collected lithium diphenylphosphinobenzene-m-monosulfonate was dried at 150° C. under reduced pressure of 5 mmHg for 4 hours to give 128 g lithium diphenylphosphinobenzene-m-monosulfonate. It was revealed by the analyses of elemental analysis, ion chromatography, liquid chromatography, etc. that the obtained lithium diphenylphosphinobenzene-m-monosulfonate had a purity of 100%.

reactant | methanol | 250 ml | CO | CH4O
reactant | potassium diphenylphosphinobenzene-m-monosulfonate dihydrate | 157 g | O.O.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC(=CC=C1)S(=O)(=O)[O-].[K+]
reactant | lithium sulfate monohydrate | 48 g | O.S(=O)(=O)([O-])[O-].[Li+].[Li+]
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | lithium diphenylphosphinobenzene-m-monosulfonate | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC(=CC=C1)S(=O)(=O)[O-].[Li+] | InChI=1S/C18H15O3PS.Li/c19-23(20,21)18-13-7-12-17(14-18)22(15-8-3-1-4-9-15)16-10-5-2-6-11-16;/h1-14H,(H,19,20,21);/q;+1/p-1
